US06579983B1
2-Amino-5-cyano-4-phenylpyrimidine was prepared from guanidine carbonate (1.57 g, 17.5 mmol), 1-phenyl-2-cyano-3-dimethylaminopropen-1-one (3.5 g, 17.5 mmol) and sodium hydroxide (720 mg, 19.3 mmol) in a similar method to the compound of Example 1, as an off-white solid, m.p. 147°.

reactant | guanidine carbonate | 17.5 mmol, 1.57 g | C(O)(O)=O.NC(=N)N
reactant | 1-phenyl-2-cyano-3-dimethylaminopropen-1-one | 17.5 mmol, 3.5 g | C1(=CC=CC=C1)C(C(=CN(C)C)C#N)=O | C12H12N2O
reactant | sodium hydroxide | 19.3 mmol, 720 mg | [OH-].[Na+]
product | 2-Amino-5-cyano-4-phenylpyrimidine | NC1=NC=C(C(=N1)C1=CC=CC=C1)C#N | C11H8N4
